US05656648
D) 1-(5-Chloro-2-methoxy-4-methylphenyl)-1-propanone
A suspension of 2.55 g of AlCl3 in 30 ml of DCM is cooled to 0° C. under a nitrogen atmosphere, and a solution of 1.77 g of propionyl chloride in 15 ml of DCM is added dropwise. A solution of 3 g of 2-chloro-5-methoxytoluene in 15 ml of DCM is then added dropwise, and the reaction mixture is left stirring for 2 hours. It is poured into a mixture of concentrated HCl and ice, the organic phase is extracted with DCM and dried over magnesium sulphate and the solvent is evaporated off under vacuum. The residue is chromatographed on silica, eluting with a DCM/heptane (70:30; v/v) mixture. 2.2 g of the expected product, m.p.=79° C., are obtained.

reactant | AlCl3 | 2.55 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | propionyl chloride | 1.77 g | C(CC)(=O)Cl | C3H5ClO
reactant | 2-chloro-5-methoxytoluene | 3 g | ClC1=C(C=C(C=C1)OC)C | C8H9ClO
reactant | HCl | Cl | ClH
solvent | DCM | 30 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 15 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 15 ml | C(Cl)Cl | CH2Cl2
product | 1-(5-Chloro-2-methoxy-4-methylphenyl)-1-propanone | 2.2 g | ClC=1C(=CC(=C(C1)C(CC)=O)OC)C | C11H13ClO2
